US07576094B2
A mixture of diethyl cyclopropane-1,1-dicarboyxlate (4.1 g) and lithium tri-t-butoxy aluminohydride (11 g) in anhydrous THF (50 mL) was stirred at 80° C. for 2 h. The mixture was cooled down and water was slowly added to this suspension, followed by ethyl acetate. The organic layer was separated, washed with water and dried over MgSO4. Evaporation and purification with silica gel column eluting with 40-50% EtOAc in hexane gave 1.7 g 1-hydroxymethyl-cyclopropanecarboxylic acid ethyl ester a clear liquid.

reactant | lithium tri-t-butoxy aluminohydride | 11 g | C(C)(C)(C)O[AlH-](OC(C)(C)C)OC(C)(C)C.[Li+]
reactant | water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 1-hydroxymethyl-cyclopropanecarboxylic acid ethyl ester | 1.7 g | C(C)OC(=O)C1(CC1)CO | C7H12O3
